US06538015B1
A solution containing 100 mg of 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3-methanol in 3 ml of anhydrous dichloromethane was stirred under nitrogen at 0° C. while 35 μl of trichloroacetyl isocyanate was added dropwise. The mixture was stirred at 0° C. for 2 h. The mixture was evaporated under reduced pressure and then the residue was treated with 2 ml of methanol, 1 ml water and 100 mg of potassium carbonate under nitrogen at 0° C. The mixture was then stirred at room temperature for 1 h. The mixture was partitioned between ethyl acetate and water then extracted with ethyl acetate three times. The combined extracts were washed with brine then dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using methanol/dichloromethane (1:49) for the elution to give 67 mg of carbamic acid [5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazol-3-yl]methyl ester as a white solid. Mass spectrum (ESI) m/z 451 [M+H]+. 1H NMR (DMSO) 1.30 (d, 6H), 3.91 (s, 2H), 4.77 (m, 1H), 5.05 (s, 2H), 6.55 (br s, 1H), 6.78 (br s, 1H), 6.79 (s, 2H), 7.08 (d, 2H), 7.39 (s, 1H), 8.30 (d, 2H).

reactant | 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3-methanol | 100 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)CO)CC1=CC=NC=C1 | C19H19Cl2N3OS
reactant | trichloroacetyl isocyanate | 35 μl | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | carbamic acid [5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazol-3-yl]methyl ester | 67 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)COC(N)=O)CC1=CC=NC=C1 | C20H20Cl2N4O2S
